### PR TITLE
chore(Topology/Algebra/Valued/NormedValued): generalized `Valuation.norm` to `RankLeOne`

### PR DESCRIPTION
**Pull request by mariainesdff**
---

- [x] depends on: #43590 

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/Algebra/Valued/NormedValued.lean [hunk 1]
```diff
@@ -113,26 +113,26 @@ end
...
+theorem norm_def {x : R} : v.norm x = hv.hom' (v.restrict x) := rfl
 
-theorem norm_nonneg (x : L) : 0 ≤ v.norm x := by simp only [norm, NNReal.zero_le_coe]
+theorem norm_nonneg (x : R) : 0 ≤ v.norm x := by simp [norm]
 
-theorem norm_add_le (x y : L) : v.norm (x + y) ≤ max (v.norm x) (v.norm y) := by
-  simp only [norm, NNReal.coe_le_coe, le_max_iff, StrictMono.le_iff_le hv.strictMono]
+theorem norm_add_le (x y : R) : v.norm (x + y) ≤ max (v.norm x) (v.norm y) := by
+  simp only [norm, NNReal.coe_le_coe, le_max_iff, StrictMono.le_iff_le hv.strictMono']
   exact le_max_iff.mp (Valuation.map_add_le_max' v.restrict _ _)
```
Comment (jjdishere) [inline Mathlib/Topology/Algebra/Valued/NormedValued.lean:128]:
```suggestion
  simp [norm_def, hv.strictMono'.le_iff_le]
```

File: Mathlib/Topology/Algebra/Valued/NormedValued.lean [hunk 2]
```diff
@@ -113,26 +113,26 @@ end
...
 
-theorem norm_eq_zero {x : L} (hx : v.norm x = 0) : x = 0 := by
-  simpa [v.restrict_def, norm, NNReal.coe_eq_zero, RankOne.hom_eq_zero_iff, zero_iff] using hx
+theorem norm_eq_zero (v : Valuation L Γ₀) [RankLeOne v] {x : L} (hx : v.norm x = 0) : x = 0 := by
+  simpa [v.restrict_def, norm, NNReal.coe_eq_zero, zero_iff] using hx
```
Comment (jjdishere) [inline Mathlib/Topology/Algebra/Valued/NormedValued.lean:131]:
```suggestion
  simpa [norm_def] using hx
```

File: Mathlib/Topology/Algebra/Valued/NormedValued.lean [hunk 3]
```diff
@@ -113,26 +113,26 @@ end
...
 
-theorem norm_pos_iff_valuation_pos {x : L} : 0 < v.norm x ↔ (0 : Γ₀) < v x := by
-  rw [norm_def, ← NNReal.coe_zero, NNReal.coe_lt_coe, ← map_zero (RankOne.hom v),
-    StrictMono.lt_iff_lt (RankOne.strictMono v)]
+theorem norm_pos_iff_valuation_pos {x : R} : 0 < v.norm x ↔ (0 : Γ₀) < v x := by
+  rw [norm_def, ← NNReal.coe_zero, NNReal.coe_lt_coe, ← map_zero (RankLeOne.hom' v),
+    StrictMono.lt_iff_lt (RankLeOne.strictMono' (v := v))]
   rw [v.restrict_pos_iff]
```
Comment (jjdishere) [inline Mathlib/Topology/Algebra/Valued/NormedValued.lean:136]:
```suggestion
  simpa [norm_def] using (RankLeOne.strictMono' (v := v)).lt_iff_lt (a := 0) (b := (v.restrict x))
```

File: Mathlib/Topology/Algebra/Valued/NormedValued.lean [hunk 4]
```diff
@@ -113,26 +113,26 @@ end
...
 
 /-- The norm function determined by a rank one valuation on a field `L`. -/
-def norm : L → ℝ := fun x : L => hv.hom _ (v.restrict x)
+def norm : R → ℝ := fun x : R ↦ hv.hom' (v.restrict x)
 
-theorem norm_def {x : L} : v.norm x = hv.hom _ (v.restrict x) := rfl
+theorem norm_def {x : R} : v.norm x = hv.hom' (v.restrict x) := rfl
 
-theorem norm_nonneg (x : L) : 0 ≤ v.norm x := by simp only [norm, NNReal.zero_le_coe]
+theorem norm_nonneg (x : R) : 0 ≤ v.norm x := by simp [norm]
```
Comment (faenuccio) [inline Mathlib/Topology/Algebra/Valued/NormedValued.lean]:
```suggestion
theorem norm_nonneg (x : R) : 0 ≤ v.norm x := by simp [norm_def]
```

File: Mathlib/Topology/Algebra/Valued/NormedValued.lean [hunk 5]
```diff
@@ -113,26 +113,26 @@ end
...
 
-theorem norm_add_le (x y : L) : v.norm (x + y) ≤ max (v.norm x) (v.norm y) := by
-  simp only [norm, NNReal.coe_le_coe, le_max_iff, StrictMono.le_iff_le hv.strictMono]
+theorem norm_add_le (x y : R) : v.norm (x + y) ≤ max (v.norm x) (v.norm y) := by
+  simp only [norm, NNReal.coe_le_coe, le_max_iff, StrictMono.le_iff_le hv.strictMono']
```
Comment (faenuccio) [inline Mathlib/Topology/Algebra/Valued/NormedValued.lean]:
```suggestion
  simp only [norm_def, NNReal.coe_le_coe, le_max_iff, StrictMono.le_iff_le hv.strictMono']
```

**Comment by faenuccio** [comment]
I've also left some comments (that overlap with @jjdishere 's) and once you implement those I think this can go.

**Comment by jjdishere** [comment]
Thanks!

maintainer merge

**Review by riccardobrasca — COMMENTED** [review]
Thanks!

bors merge
